US06355618B1
Step A. 2-Chlorobenzyl chloroformate
To a solution of 2-chlorobenzyl alcohol (1.0 g, 7.0 mmol) in diethyl ether (15 ml) at 0° C. was added N,N-diisopropylethyl amine (2.4 ml, 14.0 mmol), and phosgene solution in toluene (7.5 ml, 14.0 mmol). The mixture was allowed to warm up to room temperature in 2 h while stirring, then it was filtered. The diethyl ether was removed by rotary evaporator, and the solution of 2-chlorobenzyl chloroformate in toluene was carried on for the next step reaction.

reactant | 2-chlorobenzyl alcohol | 7.0 mmol, 1.0 g | ClC1=C(CO)C=CC=C1 | C7H7ClO
reactant | N,N-diisopropylethyl amine | 14.0 mmol, 2.4 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 14.0 mmol, 7.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 2-Chlorobenzyl chloroformate | ClC(=O)OCC1=C(C=CC=C1)Cl | C8H6Cl2O2
